US07067517B2
4-(3-Amino-phenyl)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin2-yloxy)-phenyl ester,
The title product was prepared from 4-(3-aminophenyl)piperidine (released form the correspondent hydrochloride by a standard procedure) and 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate, preparative HPLC (method C) (reaction performed in a mixture of dichloromethane and dimethylformamide, 5:3). 1.7 M HCl in ethyl acetate was added to the pooled fractions containing the title product, and the fractions was evaporated to dryness (7%, light yellow solid). HPLC-MS m/z=(M+1) 458.0, Rt: 3.09 min.

reactant | 4-(3-aminophenyl)piperidine | NC=1C=C(C=CC1)C1CCNCC1 | C11H16N2
reactant | hydrochloride | Cl | ClH
reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | HCl | 1.7 M | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-Amino-phenyl)-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCC(CC1)C1=CC(=CC=C1)N)(F)F | C24H22F3N3O3
